US04318913
(i) 1-Methyl-N3 -phenylmethylene-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine
A mixture of 1-methyl-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine (6.08 g) and benzaldehyde (2.4 g) in dry benzene was heated under reflux during 12 hr in a Dean & Stark apparatus. The solvent was removed and the residue purified by column chromatography on silica using methanol to give the title compound as a yellow oil (7.4 g). TLC silica; methanol: ammonia (80:1) Rf 0.43. NMR (CDCl3) 0.85 s (1H); 2.05 m (2H); 2.5-3.0 m (4H); 3.0-3.3 m (3H); 5.35 t (1H); 5.88 t (2H); 6.39 q (2H); 6.42 s (3H); 6.62 s (2H); 7.77 s (6H); 7.83 m (2H).

reactant | 1-methyl-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 6.08 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN(C)C)N | C15H24N6O
reactant | benzaldehyde | 2.4 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Methyl-N3 -phenylmethylene-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 7.4 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN(C)C)N=CC1=CC=CC=C1 | C22H28N6O
